US06284756B1
Preparation of 4-[4-[6-Hydroxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]benzo[b]thiophen-2-yl]phenoxy]butanol Oxalate
4-[6-Benzyloxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]benzo[b]thiophen-2-yl]phenol (0.10 g; 0.19 mmol), 4-chlorobutyric acid methyl ester (27 mL; 0.22 mmol) and Cs2CO3 (0.43 g; 1.31 mmol) were combined in 2 mL of DMF and heated in an oil bath maintained at 80° C. for 3 h. After cooling to room temperature, water (30 mL) was added, and extraction was carried out with EtOAc (4×25 mL). The combined organics were washed with brine and dried by passage through Na2SO4. Purification was effected by flash chromatography on silica gel, eluting with EtOAc(100-90%)/Et3N(0-5%)/MeOH(0-5%). The title product was obtained as a colorless oil (92 mg, 78%).

reactant | 4-[6-Benzyloxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]benzo[b]thiophen-2-yl]phenol | 0.19 mmol, 0.10 g | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2CC2=CC(=C(C=C2)CN2CCCC2)OC)C2=CC=C(C=C2)O)C1 | C34H33NO3S
reactant | 4-chlorobutyric acid methyl ester | 0.22 mmol, 27 mL | COC(CCCCl)=O | C5H9ClO2
reactant | Cs2CO3 | 1.31 mmol, 0.43 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 30 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-[4-[6-Hydroxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]benzo[b]thiophen-2-yl]phenoxy]butanol Oxalate | C(C(=O)O)(=O)O.OC=1C=CC2=C(SC(=C2CC2=CC(=C(C=C2)CN2CCCC2)OC)C2=CC=C(OCCCCO)C=C2)C1 | InChI=1S/C31H35NO4S.C2H2O4/c1-35-29-19-22(6-7-24(29)21-32-14-2-3-15-32)18-28-27-13-10-25(34)20-30(27)37-31(28)23-8-11-26(12-9-23)36-17-5-4-16-33;3-1(4)2(5)6/h6-13,19-20,33-34H,2-5,14-18,21H2,1H3;(H,3,4)(H,5,6)
